US09163008B2
A 50-mL vial with a screw-top septum was charged with 200 mg of 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethoxy)phenoxy)phenyl)-1,3,2-dioxaborolane, 1 equivalent (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide (129 mg, 0.53 mmol), 1.5 mL 2M aqueous Na2CO3, 0.07 equivalents PdCl2(PPh3)2 (28 mg, 0.04 mmol), and 8 mL dioxane. The vial was purged with nitrogen and heated to 10° C. for 6 h, at which time the reaction was complete. The mixture was diluted with 100 mL EtOAc and washed two times with 100 mL water. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was chromatographed by combiflash using a 40-gram silica column with a gradient EtOAc (100% max) in hexane to provide 76 mg (31% yield) of (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-(trifluoromethoxy)phenoxy)phenyl)pyrimidine-4-carboxamide as a white solid. m/z 461, 1H NMR (CD3OD): 8.56-8.49 (m, 2H), 7.35-7.27 (m, 2H), 7.17-7.11 (m, 3H), 7.09-7.02 (m, 2H), 4.64-4.49 (m, 1H), 4.56-1.49 (m, 3H).

reactant | 4,4,5,5-tetramethyl-2-(4-(4-(trifluoromethoxy)phenoxy)phenyl)-1,3,2-dioxaborolane | 200 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F)C | C19H20BF3O4
reactant | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-chloropyrimidine-4-carboxamide | 0.53 mmol, 129 mg, 1 equivalent | NC([C@H](C)NC1=CC(=NC(=N1)Cl)C(=O)N)=O | C8H10ClN5O2
reactant | Na2CO3 | 2M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.04 mmol, 28 mg, 0.07 equivalents | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (S)-6-((1-amino-1-oxopropan-2-yl)amino)-2-(4-(4-(trifluoromethoxy)phenoxy)phenyl)pyrimidine-4-carboxamide | 76 mg, 31% yield | NC([C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F)C(=O)N)=O | C21H18F3N5O4
